* C:\Users\Facu\Documents\DCE\simulaciones\500ma\modelo_1_1\modelo_1_1.asc
Q1 N004 N005 0 0 2N2222
Q2 N005 N005 0 0 2N2222
Q3 Tpaso Verr N004 0 2N2222
Q4 VCC Vref N004 0 2N2222
Q5 N002 Tpaso NodoS1 0 BC547B
Q7 Tpaso N001 VCC 0 BC557B
Q8 N001 N001 VCC 0 BC557B
R1 VCC N005 1325
R2 N001 0 2650
Q9 NodoS1 N002 VCC 0 2SA2210
V1 Vref 0 1.2
V2 VCC 0 6
Q6 VCC vout N003 0 BC547B
R4 N003 Verr 4k7
R3 Verr N006 1k8
I2 0 0 1
R5 N006 0 2k2
R8 N007 0 10k
M2 N006 N007 0 0 BSC100N03LS
R7 Vcc N007 1K
Q10 P001 N017 0 0 2N2222
R30 N009 N017 100
XU1 N011 N010 VCC 0 N009 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R10 N010 N009 5k6
C1 N010 N009 20n
R9 N011 0 5k6
R11 N015 N010 100
R12 N012 N011 100
XU2 N013 N008 VCC 0 N012 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R13 N008 N012 10k
R14 N008 vout 1k
R15 0 N013 10k
R16 NodoS1 N013 1k
XU3 N020 N016 VCC 0 N015 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R17 N016 N015 100k
R18 0 N016 100k
R19 N014 N020 100k
XU4 N018 N014 VCC NC_01 N014 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R20 N018 0 100k
R21 Vref N018 500k
R22 N019 N020 100k
XU5 N021 N019 VCC 0 N019 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R23 N021 0 460k
R24 Verr N021 544k
Rs NodoS1 vout 0.1
Rl vout 0 {Rl}
R6 Tpaso P001 10
.model NPN NPN
.model PNP PNP
.lib C:\Users\Facu\AppData\Local\LTspice\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Facu\AppData\Local\LTspice\lib\cmp\standard.mos
.op
;tran 0.01
;dc I2 100m 1 10m
.lib 2SA2210-SPICE-D.LIB
.step param Rl 0.01 10 0.1
.lib UniversalOpAmp1.lib
.backanno
.end
